US08669271B2
4-[6-Chloro-4-(4-methoxy-benzyl)-3-oxo-3,4-dihydro-pyrazin-2-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 3,5-dichloro-1-(4-methoxy-benzyl)-1H-pyrazin-2-one (285 mg; for preparation see Tetrahedron Letters 2010, 51, 1739) and 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (272 mg), triethylamine (2 mL) and N,N-dimethylformamide (2 mL) in a microwave oven suited vessel charged with a stir bar is sparged with argon for 10 min. Copper (I) iodide (8 mg) and Pd(PPh3)2Cl2 (10 mg) are added and the vessel is capped. The resulting mixture is stirred under microwave irradiation at 80° C. for 15 min. After cooling the mixture to room temperature, ethyl acetate is added. The organic phase is washed with 2 N aqueous citric acid, water, and brine, dried (MgSO4) and the solvent is evaporated. The residue is chromatographed on silica gel (ethyl acetate/cyclohexane 40:60) to give the title compound. Yield: 440 mg (96% of theory); LC (method 2): tR=1.47 min; Mass spectrum (ESI+): m/z=458 [M+H]+.

reactant | 3,5-dichloro-1-(4-methoxy-benzyl)-1H-pyrazin-2-one | 285 mg | ClC=1C(N(C=C(N1)Cl)CC1=CC=C(C=C1)OC)=O | C12H10Cl2N2O2
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 272 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[6-Chloro-4-(4-methoxy-benzyl)-3-oxo-3,4-dihydro-pyrazin-2-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=NC(=CN(C1=O)CC1=CC=C(C=C1)OC)Cl | C24H28ClN3O4
